US07449466B2
Production Example 30 was repeated except that 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine was replaced with 1-(4-benzyloxy-3-fluorophenyl)-4-(3-cyclohexylpropyl)-piperazine (1.45 g), to provide 4-[4-(3-cyclohexylpropyl)piperazin-1-yl]-2-fluorophenol hydrochloride (1.17 g).

reactant | 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCC1CCCCC1)Cl | C26H35ClN2O
reactant | 1-(4-benzyloxy-3-fluorophenyl)-4-(3-cyclohexylpropyl)-piperazine | 1.45 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCC1CCCCC1)F | C26H35FN2O
product | 4-[4-(3-cyclohexylpropyl)piperazin-1-yl]-2-fluorophenol hydrochloride | 1.17 g | Cl.C1(CCCCC1)CCCN1CCN(CC1)C1=CC(=C(C=C1)O)F | InChI=1S/C19H29FN2O.ClH/c20-18-15-17(8-9-19(18)23)22-13-11-21(12-14-22)10-4-7-16-5-2-1-3-6-16;/h8-9,15-16,23H,1-7,10-14H2;1H
